US07666659B2
Preparation of 3-(3,4-methylenedioxyphenyl)-propionic ethyl ester
First, 50 g of 3,4-methylenedioxy cinnamic acid was dissolved in 500 ml of ethanol. To the mixture, 5 g of 5% Pd/C catalyst was added. The reaction system was replaced with hydrogen gas and stirred at 25° C. for 6 hours. After completion of the reaction, the Pd/C catalyst was removed by filtration. The resultant ethanol solution was cooled to 5° C. and 37.1 g of thionyl chloride was added dropwise for one hour. After completion of the dropwise addition, the ethanol solution was stirred for a further 3 hours with keeping the inner temperature at 5° C. After completion of the reaction, a solvent was distilled off under reduced pressure to obtain 54.7 g of an orange concentrate. A part of the concentrate was taken and analyzed by high performance column chromatography (HPLC) (column: LiChrosphere 100 PR-8(E), 250 mm×4.0 mm I.D., manufactured by Merck Ltd., mobile phase: an aqueous solution of phosphate/potassium dihydrogenphosphate: acetonitrile=1:1, flow rate: 1 ml/minute, detection wavelength: 210 nm, column temperature: 30° C.). As a result, it was observed that 49.8 g of the titled compound was obtained.

reactant | 3,4-methylenedioxy cinnamic acid | 50 g | C1OC=2C=C(C=CC(=O)O)C=CC2O1 | C10H8O4
reactant | hydrogen | [H][H] | H2
reactant | phosphate potassium dihydrogenphosphate | P(=O)([O-])([O-])[O-].P(=O)(O)(O)[O-].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | Pd/C | 5 g | [Pd] | Pd
product | 3-(3,4-methylenedioxyphenyl)-propionic ethyl ester | 49.8 g | C(C)OC(CCC1=CC2=C(C=C1)OCO2)=O | C12H14O4
